US08304557B2
N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide
In the same manner as in Example 55 and using 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid (78.6 mg, 0.405 mmol), tetrahydrofuran (5 mL), thionyl chloride (70.0 μL, 0.807 mmol), N,N-dimethylformamide (2 drops), N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide (120 mg, 0.367 mmol) and N,N-dimethylacetamide (5 mL) as starting materials, the title compound (132 mg, 72%) was obtained as a white solid.

reactant | 1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxylic acid | 0.405 mmol, 78.6 mg | CN1N=C(C(=C1)C(=O)O)C(F)(F)F | C6H5F3N2O2
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
reactant | thionyl chloride | 0.807 mmol, 70.0 μL | S(=O)(Cl)Cl | Cl2OS
reactant | N-[6-(3-amino-4-fluorophenoxy)[1,2,4]triazolo[1,5-a]pyridin-2-yl]cyclopropanecarboxamide | 0.367 mmol, 120 mg | NC=1C=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C3CC3)C=CC1F | C16H14FN5O2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | N-[5-({2-[(cyclopropylcarbonyl)amino][1,2,4]triazolo[1,5-a]pyridin-6-yl}oxy)-2-fluorophenyl]-1-methyl-3-(trifluoromethyl)-1H-pyrazole-4-carboxamide | 132 mg, 72% | C1(CC1)C(=O)NC1=NN2C(C=CC(=C2)OC=2C=CC(=C(C2)NC(=O)C=2C(=NN(C2)C)C(F)(F)F)F)=N1 | C22H17F4N7O3
